US07307165B2
Synthesis of N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine
N,N-Diisobutylformamide (5.44 g, 34.5 mmol) was dissolved in chloroform (25.0 mL), and under cooling in an ice-sodium chloride bath, phosphorus oxychloride (3.22 mL, 34.5 mmol) was added dropwise thereto at −2° C. or less. After stirring at −2° C. or less for 30 minutes, to the mixture was added 2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonamide (6.15 g, 23.0 mmol). The mixture was stirred at −10° C. for 10 minutes, and triethylamine (19.3 mL, 138 mmol) was added dropwise over 20 minutes to the solution at 5° C. or less. The mixture was stirred for 1 hour at 0° C. or less and for 1 hour at room temperature, then poured into an aqueous saturated sodium bicarbonate and extracted 5 times with chloroform. The extracts were combined, dehydrated over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residues were purified by silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound as pale yellow crystals. The yield was 5.58 g (59.6%).

reactant | N,N-Diisobutylformamide | 34.5 mmol, 5.44 g | C(C(C)C)N(C=O)CC(C)C | C9H19NO
reactant | phosphorus oxychloride | 34.5 mmol, 3.22 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonamide | 23.0 mmol, 6.15 g | ClC=1N=C2N(N=C(C=C2)Cl)C1S(=O)(=O)N | C6H4Cl2N4O2S
reactant | triethylamine | 138 mmol, 19.3 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 25.0 mL | C(Cl)(Cl)Cl | CHCl3
product | N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | ClC=1N=C2N(N=C(C=C2)Cl)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C15H21Cl2N5O2S
